US05643931
Anhydrous trifluoroacetic acid (20 ml) was added to 20 ml of dichloromethane solution containing 1.53 g of 3-(4-cyanophenoxy)aniline, and the reaction mixture was stirred for 30 minutes at room temperature. The solvent was evaporated under a reduced pressure, and the thus obtained residue was dissolved in 40 ml of 2-butanone. Then, 3.14 g of methyl iodide and 2.09 g of potassium carbonate were added thereto. The reaction mixture was heated for 3 hours under reflux, insoluble materials were separated by filtration, and the solvent was evaporated under a reduced pressure. To the thus obtained residue were added 30 ml of methanol, 20 ml of water and 1.10 g of potassium carbonate. The reaction mixture was heated for 2 hours under reflux, diluted with water and then extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluant; hexane:ethyl acetate=2:1) to obtain 1.52 g of 3-(4-cyanophenoxy)-N-methylaniline.

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(4-cyanophenoxy)aniline | 1.53 g | C(#N)C1=CC=C(OC=2C=C(N)C=CC2)C=C1 | C13H10N2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4-cyanophenoxy)-N-methylaniline | 1.52 g | C(#N)C1=CC=C(OC=2C=C(NC)C=CC2)C=C1 | C14H12N2O
